### PR TITLE
[Merged by Bors] - feat(Data/List): `a :: l ~r l ++ [a]`

### PR DESCRIPTION
**Pull request by YaelDillies**
From ProofBench

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/List/Rotate.lean [hunk 1]
```diff
@@ -459,6 +459,8 @@ theorem IsRotated.map {β : Type*} {l₁ l₂ : List α} (h : l₁ ~r l₂) (f :
   rw [map_rotate]
   use n
 
+lemma isRotated_cons_concat : a :: l ~r l.concat a := by simpa using isRotated_append (l := [a])
```
Comment (eric-wieser) [inline Mathlib/Data/List/Rotate.lean]: Is concat preferred to `l ++ [a]`?

File: Mathlib/Data/List/Rotate.lean [hunk 2]
```diff
@@ -459,6 +459,9 @@ theorem IsRotated.map {β : Type*} {l₁ l₂ : List α} (h : l₁ ~r l₂) (f :
   rw [map_rotate]
   use n
 
+lemma isRotated_cons_append_singleton : a :: l ~r l ++ [a] := by
```
Comment (eric-wieser) [inline Mathlib/Data/List/Rotate.lean]:
```suggestion
lemma IsRotated.cons_append_singleton : a :: l ~r l ++ [a] := by
```
to match the one below

Comment (eric-wieser) [reply Mathlib/Data/List/Rotate.lean]: Or maybe even just `.cons`
